US05468742
3.72 g of ethyl 8-bromo-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 4.4 g of tributylvinyl stannan and 0.46 g of tetrakis(triphenylphosphine)palladium(0) are refluxed in 40 ml of absolute toluene for 2 to 3 hours under a nitrogen atmosphere. The mixture is filtered under hot conditions, and the product which has precipitated at room temperature is filtered off with suction, washed with toluene and dried. 2.55 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-vinyl-3-quinolinecarboxylate are obtained (79% of theory).

reactant | ethyl 8-bromo-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 3.72 g | BrC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)F | C15H12BrF2NO3
reactant | tributylvinyl stannan | 4.4 g | C(CCC)C(=C(CCCC)CCCC)[SnH3]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-vinyl-3-quinolinecarboxylate | 2.55 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C=C)F)F)=O)C(=O)OCC | C17H15F2NO3
